US07700641B2
To a solution of 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one (0.08 g, 0.26 mmol) in DMF (10 mL) was added sodium hydride (0.03 g, 0.78 mmol) slowly at 0° C. After 30 min, 3-(bromomethyl)-pyridine hydrobromide (0.10 g, 0.39 mmol) was added. The mixture was stirred at ambient temperature overnight, quenched with saturated ammonium chloride (10.0 mL). The mixture was extracted with ethyl acetate (3×20.0 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was subjected to column chromatography (ethyl acetate/hexane, 2/1) to give 5,5-dimethyl-1′-(pyridin-3-ylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one as a white solid (0.05 g, 48%), which was treated with 2.0 M HCl in diethyl ether to give the title compound: mp 124-126° C.; 1H NMR (300 MHz, CD3OD) δ 8.96 (br, 1H), 8.82 (br, 1H), 8.62 (d, 1H), 7.3 (t, 1H), 7.32 (td, 1H), 7.23-7.17 (m, 1H), 7.16-7.08 (m, 2H), 6.42 (s, 1H), 6.32 (s, 1H), 5.35-5.14 (m, 2H), 4.93-4.84 (m, 1H), 4.74 (d, 1H), 4.18 (s, 2H), 1.18 (s, 3H), 1.14 (s, 3H); 13C NMR (75 MHz, CD3OD) δ 178.9, 161.6, 161.1, 145.4, 141.3, 141.1, 132.5, 130.1, 128.8, 124.0, 123.9, 120.1, 116.2, 108.8, 92.6, 85.1, 80.2, 57.8, 41.0, 40.5, 26.5, 26.4; MS (ES+) m/z 399.5 (M+1).

reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.26 mmol, 0.08 g | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
reactant | sodium hydride | 0.78 mmol, 0.03 g | [H-].[Na+]
reactant | 3-(bromomethyl)-pyridine hydrobromide | 0.39 mmol, 0.10 g | Br.BrCC=1C=NC=CC1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5,5-dimethyl-1′-(pyridin-3-ylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.05 g, 48% | CC1(C=2C(OC1)=CC=1OCC3(C(N(C4=CC=CC=C34)CC=3C=NC=CC3)=O)C1C2)C | C25H22N2O3
